US07858646B2
Synthesis of 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzonitrile
Combine 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (1.65 g, 5.51 mmol), 3-bromo-benzonitrile (912 mg, 5.01 mmol), cesium carbonate (2.29 g, 7.01 mmol), and 18-crown-6 (132 mg, 0.501 mmol) in toluene (25 mL) and stir. Purge reaction vessel with argon. Add BINAP [rac-2,2′-bis(diphenyl-phosphino)-1,1′-binaphthyl] (468 mg, 0.752 mmol), and palladium acetate (112 mg, 0.501 mmol). Purge reaction vessel with argon. Heat to 100° C. for 18 hours and cool to ambient temperature. Add 10% aqueous citric acid, and extract with ethyl acetate. Combine the organic layers, dry with sodium sulfate, filter and concentrate to dryness. Purify the resulting residue by flash chromatography eluting with 30% ethyl acetate:hexanes to yield a yellow oil (1.36 g, 68%): 1H NMR (CDCl3) δ 0.92 (t, 3H), 1.56 (sextet, 2H), 2.56 (s, 3H), 2.69 (t, 2H), 5.15 (s, 2H), 5.86 (bs, 1H), 6.49 (d, 1H), 7.06 (m, 2H), 7.15-7.21 (m, 3H), 7.27-7.37 (m, 3H), 7.59 (d, 1H), 12.75 (s, 1H).

reactant | 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 5.51 mmol, 1.65 g | NC=1C=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=CC1 | C18H21NO3
reactant | 3-bromo-benzonitrile | 5.01 mmol, 912 mg | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | cesium carbonate | 7.01 mmol, 2.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 18-crown-6 | 0.501 mmol, 132 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | BINAP | 0.752 mmol, 468 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.501 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzonitrile | 1.36 g, 68% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC=2C=C(C#N)C=CC2)C=C1)CCC)O | C25H24N2O3
